US09388183B2
To a stirred mixture of 6-chloropyridazin-3-amine (D-1) (52.0 g, 0.4 mol, 1.0 eq) and sodium carbonate (84.8 g, 0.8 mol, 2.0 eq) in MeOH (500 mL) at RT, bromine (70.6 g, 0.44 mol, 1.1 eq) is added dropwise and the resulting mixture is stirred overnight. The reaction mixture is filtered and the filter cake is washed with ethyl acetate. The filtrate is concentrated in vacuo and the residue is poured into water (300 mL). The resulting mixture is extracted with ethyl acetate (2×300 mL). The combined organic layers are dried over Na2SO4 and filtered. The filtrate is concentrated in vacuo and the residue is purified by flash column chromatography on silica gel (0-50% ethyl acetate-petroleum ether) to afford the product, 4-bromo-6-chloropyridazin-3-amine (D-2).

reactant | 6-chloropyridazin-3-amine | 0.4 mol, 52.0 g, 1.0 eq | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | sodium carbonate | 0.8 mol, 84.8 g, 2.0 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 0.44 mol, 70.6 g, 1.1 eq | BrBr | Br2
solvent | MeOH | 500 mL | CO | CH4O
product | 4-bromo-6-chloropyridazin-3-amine | BrC1=C(N=NC(=C1)Cl)N | C4H3BrClN3
